US04012433
To a warm (50°) stirred solution of 4-hydroxy-2-butynyl N-(3-chlorophenyl)carbamate (59.9 g., 0.500 mole) and dimethylformamide (0.6 g) in 150 ml of EDC was added 250 ml of 12.5% phosgene in benzene over a period of about 30 minutes. The reaction mixture was heated at 50° for 4.5 more hours, then at 60° for 2 hours. Evaporation of solvent afforded a quantitative yield of technical barban.

reactant | 4-hydroxy-2-butynyl N-(3-chlorophenyl)carbamate | 0.500 mole, 59.9 g | ClC=1C=C(C=CC1)NC(OCC#CCO)=O | C11H10ClNO3
reactant | dimethylformamide | 0.6 g | CN(C=O)C | C3H7NO
reactant | phosgene | 250 ml | C(=O)(Cl)Cl | CCl2O
solvent | EDC | 150 ml
solvent | benzene | C1=CC=CC=C1 | C6H6
product | barban | quantitative yield | C1=CC(=CC(=C1)Cl)NC(=O)OC#CCl | C9H5Cl2NO2
